US07956084B2
b) 4-(2-Bromophenoxy)-1-methylpiperidine
The title compound was prepared from 2-bromophenol and 1-methylpiperidin-4-yl methanesulphonate in a similar manner to Example 134 (b) except that the compound was purified by cation exchange chromatography eluting with ammonia/methanol mixtures.

reactant | 2-bromophenol | BrC1=C(C=CC=C1)O | C6H5BrO
reactant | 1-methylpiperidin-4-yl methanesulphonate | CS(=O)(=O)OC1CCN(CC1)C | C7H15NO3S
product | 4-(2-Bromophenoxy)-1-methylpiperidine | BrC1=C(OC2CCN(CC2)C)C=CC=C1 | C12H16BrNO
